US08471005B2
To a cooled (0° C.) mixture of Phosphoryl chloride (55 mL, 0.59 mol) and N,N-Dimethylformamide (27 mL, 0.35 mol) was added 2-Methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (3.70 g, 0.0224 mol) in N,N-Dimethylformamide (55 mL, 0.71 mol). The addition was added to ensure that the temperature of the reaction stayed below 20° C. After complete addition of 7-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine, the mixture was heated at 80° C. and was allowed to stir until HPLC showed consumption of starting material (−1 hour). The reaction was then poured over ice water and was neutralized with saturated sodium bicarbonate. Organics were then extracted with ethyl acetate and combined extracts were dried over magnesium sulfate, filtered and reduced to afford 3.40 g of 2-Methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine-7-carbaldehyde which was used without further purification. 1H NMR (400 MHz, DMSO, d6) δ 10.41 (s, 1H), 9.25 (s, 1H), 7.43 (d, 1H, J=4.96 Hz), 7.05 (d, 1H, J=5.00 Hz), 2.59 (s, 3H).

reactant | Phosphoryl chloride | 0.59 mol, 55 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-Dimethylformamide | 0.35 mol, 27 mL | CN(C=O)C | C3H7NO
reactant | 2-Methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 0.0224 mol, 3.70 g | CSC1=NN2C(C=N1)=CC=C2 | C7H7N3S
reactant | N,N-Dimethylformamide | 0.71 mol, 55 mL | CN(C=O)C | C3H7NO
reactant | 7-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | BrC1=CC=C2C=NC(=NN21)SC | C7H6BrN3S
product | 2-Methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine-7-carbaldehyde | 3.40 g | CSC1=NN2C(C=N1)=CC=C2C=O | C8H7N3OS
